* C:\Users\circuit\spice\offset.asc
V§CLK N003 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
VIN VINP N002 PULSE(-25m 25m 0 1000n 0 0 1000n)
Vcom N002 0 0.9
Vdd N001 0 1.8
E1 VINN N002 VINP N002 -1
C1 VOP 0 20f
C2 VON 0 20f
XX1 N003 N001 VINN VINP 0 VON VOP my_comparator
XX2 VON VOP N001 VOUTN VOUTP my_sr_latch

* block symbol definitions
.subckt my_comparator CLK VDD VINN VINP VSS VOUTN VOUTP
M2 N047 N054 N057 N052 CMOSN l={L2} w={W2} m={M2}
M3 N061 N072 N077 N066 CMOSN l={L3} w={W3} m={M3}
M4 N023 N013 N007 N015 CMOSP l={L4} w={W4} m={M4}
M5 N024 N014 N008 N016 CMOSP l={L5} w={W5} m={M5}
M1 N046 N053 N055 N050 CMOSN l={L1} w={W1} m={M1}
M6 N062 N073 N078 N068 CMOSN l={L6} w={W6} m={M6}
M7 N063 N074 N079 N069 CMOSN l={L7} w={W7} m={M7}
M8 N019 N034 N038 N027 CMOSN l={L8} w={W8} m={M8}
M9 N040 N031 N028 N025 CMOSP l={L9} w={W9} m={M9}
M10 N017 N004 N001 N009 CMOSP l={L10} w={W10} m={M10}
M11 N065 N076 N081 N071 CMOSN l={L11} w={W11} m={M11}
M12 N064 N075 N080 N070 CMOSN l={L12} w={W12} m={M12}
M13 N022 N035 N039 N030 CMOSN l={L13} w={W13} m={M13}
M14 N041 N033 N029 N026 CMOSP l={L14} w={W14} m={M14}
M15 N018 N005 N002 N012 CMOSP l={L15} w={W15} m={M15}
XX1 VDD N007 para_register
XX2 VDD N015 para_register
XX3 VDD N016 para_register
XX4 VDD N008 para_register
XX5 N013 CLK para_register
XX6 CLK N014 para_register
XX7 N036 N023 para_register
XX8 N042 N024 para_register
XX9 N046 N036 para_register
XX10 N047 N042 para_register
XX11 VINP N053 para_register
XX12 N050 N051 para_register
XX13 N051 N052 para_register
XX14 N054 VINN para_register
XX15 N055 N056 para_register
XX16 N056 N057 para_register
XX17 N056 N061 para_register
XX18 N051 N067 para_register
XX19 N072 CLK para_register
XX20 N067 N066 para_register
XX21 N077 VSS para_register
XX22 N067 VSS para_register
XX23 N036 N037 para_register
XX24 N042 N043 para_register
XX25 VDD N001 para_register
XX26 VDD N010 para_register
XX27 VDD N011 para_register
XX28 VDD N002 para_register
XX29 N003 N004 para_register
XX30 N009 N010 para_register
XX31 N017 N020 para_register
XX32 N010 N025 para_register
XX33 N020 N019 para_register
XX34 N020 N028 para_register
XX35 N003 N034 para_register
XX36 N027 VSS para_register
XX37 N038 VSS para_register
XX38 N031 N032 para_register
XX39 N073 N037 para_register
XX40 N044 N040 para_register
XX41 N048 N044 para_register
XX42 N059 N048 para_register
XX43 N062 N059 para_register
XX44 N063 N059 para_register
XX45 VSS N078 para_register
XX46 VSS N068 para_register
XX47 VSS N069 para_register
XX48 VSS N079 para_register
XX49 N074 N032 para_register
XX50 N044 N045 para_register
XX51 N032 N058 para_register
XX52 VOUTP N048 para_register
XX53 N011 N012 para_register
XX54 N005 N006 para_register
XX55 N011 N026 para_register
XX56 N021 N022 para_register
XX57 VSS N030 para_register
XX58 VSS N039 para_register
XX59 N035 N006 para_register
XX60 N045 N033 para_register
XX61 N049 N041 para_register
XX62 N043 N006 para_register
XX63 N075 N045 para_register
XX64 N049 VOUTN para_register
XX65 N049 N058 para_register
XX66 N058 N060 para_register
XX67 N043 N076 para_register
XX68 N060 N064 para_register
XX69 N060 N065 para_register
XX70 N080 VSS para_register
XX71 N070 VSS para_register
XX72 N071 VSS para_register
XX73 N081 VSS para_register
XX74 N003 N037 para_register
XX75 N018 N021 para_register
XX76 N021 N029 para_register
.param L = 0.18u
.param L1 = L
.param W1 = L1*10
.param M1 = 1
.param L2 = L
.param W2 = L2*10
.param M2 = 1
.param L3 = L
.param W3 = L3*10
.param M3 = 1
.param L4 = L
.param W4 = L4*10
.param M4 = 1
.param L5 = L
.param W5 = L5*10
.param M5 = 1
.param L6 = L
.param W6 = L6*10
.param M6 = 1
.param L7 = L
.param W7 = L7*10
.param M7 = 1
.param L8 = L
.param W8 = L8*10
.param M8 = 1
.param L9 = L
.param W9 = L9*10
.param M9 = 1
.param L10 = L
.param W10 = L10*10
.param M10 = 1
.param L11 = L
.param W11 = L11*10
.param M11 = 1
.param L12 = L
.param W12 = L12*10
.param M12 = 1
.param L13 = L
.param W13 = L13*10
.param M13 = 1
.param L14 = L
.param W14 = L14*10
.param M14 = 1
.param L15 = L
.param W15 = L15*10
.param M15 = 1
.include tsmc018.mdl
.ends my_comparator

.subckt my_sr_latch R S VDD Q Q_BAR
XX1 S Q VDD 0 NC_01 Q_BAR my_cmos_or
XX2 Q_BAR R VDD 0 NC_02 Q my_cmos_or
.ends my_sr_latch

.subckt para_register in out
R1 out in 0.0001
.ends para_register

.subckt my_cmos_or A B VDD VSS Q Q_BAR
M1 Q_BAR B VSS VSS CMOSN l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS CMOSN l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD CMOSP l=0.18u w=1.8u m=1
M4 N001 A VDD VDD CMOSP l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS CMOSN l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD CMOSP l=0.18u w=1.8u m=1
.ends my_cmos_or

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.ic V(VOP)=0 V(VON)=1.8
.tran 1000n
.meas offset find V(VINP,VINN) when V(VOUTP)=0.9
.include "tsmc018.mdl"
.backanno
.end
